### PR TITLE
feat(NumberTheory/EllipticDivisibilitySequence): prove that a normalised elliptic divisibility sequence is an elliptic sequence

### PR DESCRIPTION
**Pull request by Multramate**
This is the updated version of #13155 and contains the proof that a sequence satisfying the even and odd elliptic relations (with mild additional conditions) is an elliptic net and hence an elliptic sequence. This is the main argument in [Section 2 of Junyan's paper](https://arxiv.org/pdf/2604.05280). Previously it was broken down into hundreds of lines of multiple lemmas but I was able to condense it into a single lemma with multiple `wlog`s that are hopefully self-explanatory.

Co-authored-by: Junyan Xu <junyanxu.math@gmail.com>

---

- [x] depends on: #42477 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by tb65536** [comment]
Can you add a PR description?

File: Mathlib/Data/Nat/DvdSequence.lean [hunk 1]
```diff
@@ -66,6 +66,10 @@ protected theorem smul [Dvd α] [Monoid β] [Monoid γ] {f : α → γ} [SMul β
     IsDvdSequence (b • f) :=
   .smul' (.const α b) hg
 
+protected theorem map [Dvd α] [Dvd β] [Dvd γ] {f : α → β} {g : β → γ} (hf : IsDvdSequence f)
```
Comment (tb65536) [inline Mathlib/Data/Nat/DvdSequence.lean]: Maybe `comp` would be a better name?

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 2]
```diff
@@ -116,19 +122,18 @@ lemma atom_same (a : ℤ) : atom W a a = W a * W 0 := by
...
-  rw [← neg_atom odd a b, ← neg_atom odd c d, neg_mul_neg]
+  rw [← neg_atom neg a b, ← neg_atom neg c d, neg_mul_neg]
 
 variable {W} in
 @[simp]
-lemma atom_neg_left (odd : W.Odd) (a b : ℤ) : atom W (-a) b = atom W a b := by
-  rw [atom, atom, neg_add_eq_sub, ← neg_sub a, ← neg_add', Int.neg_tdiv, odd, Int.neg_tdiv, odd,
+lemma atom_neg_left (neg : W.Odd) (a b : ℤ) : atom W (-a) b = atom W a b := by
+  rw [atom, atom, neg_add_eq_sub, ← neg_sub a, ← neg_add', Int.neg_tdiv, neg, Int.neg_tdiv, neg,
     neg_mul_neg, mul_comm]
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:138]: Can you split these independent mechanical changes (here and elsewhere throughout the diff) off into one or more sub-PRs that can be easily merged without thinking about the math?

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 3]
```diff
@@ -162,77 +167,171 @@ def atomRel (a b c d : ℤ) : R :=
...
+    atomRel W (t <| σ 0) (t <| σ 1) (t <| σ 2) (t <| σ 3) = atomRel W (t 0) (t 1) (t 2) (t 3) := by
+  induction Equiv.Perm.mclosure_swap_castSucc_succ 3 ▸ Submonoid.mem_top σ using
+    Submonoid.closure_induction generalizing t with
+  | mem _ h => rcases h with ⟨_ | _ | _ | -, rfl⟩ <;>
+    simp [Equiv.swap_apply_def] <;> grind only [neg_atomRel₁₂, neg_atomRel₂₃, neg_atomRel₃₄]
+  | one => simp
+  | mul σ τ _ _ hσ hτ => simpa [mul_smul] using congrArg _ (hτ ((t ∘ σ) ·)) |>.trans <| hσ t
+
+variable {W} in
+lemma atomRel_of_even_odd (neg : W.Odd) (one : W 1 ∈ R⁰) (two : W 2 ∈ R⁰)
```
Comment (Multramate) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:303]: This is the main argument in [Section 2 of Junyan's paper](https://arxiv.org/pdf/2604.05280). Previously it was broken down into hundreds of lines of multiple lemmas but I was able to condense it into a single lemma with multiple `wlog`s that are hopefully self-explanatory.

Comment (tb65536) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:303]: Nice! Can you say something to this effect in the PR description?

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 4]
```diff
@@ -298,26 +393,42 @@ namespace IsEllipticNet
 
 variable {W}
 
-lemma isEllipticSequence (h : IsEllipticNet W) : IsEllipticSequence W :=
-  (h · · · 0)
+lemma isEllipticSequence (h : IsEllipticNet W) : IsEllipticSequence W := (h · · · 0)
 
-protected lemma id : IsEllipticNet (id : ℤ → ℤ) :=
-  fun _ _ _ _ ↦ by simp_rw [rel, id_eq]; ring1
+protected lemma id : IsEllipticNet (id : ℤ → ℤ) := fun _ _ _ _ ↦ by simp_rw [rel, id_eq]; ring1
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:402]: I don't know if these changes actually make things more readable?

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 5]
```diff
@@ -357,8 +470,7 @@ def preNormEDS' : ℕ → R
       preNormEDS' (m + 4) * preNormEDS' (m + 2) ^ 3 * (if Even m then b else 1) -
         preNormEDS' (m + 1) * preNormEDS' (m + 3) ^ 3 * (if Even m then 1 else b)
     else
-      have : m + 5 < n + 5 := by
-        gcongr; exact Nat.div_lt_self (Nat.not_even_iff_odd.mp hn).pos one_lt_two
+      have : m + 5 < n + 5 := by rcases Nat.not_even_iff_odd.mp hn with ⟨k, rfl⟩; omega
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Does `grind` not help here? (But again, this is a mechanical change that has nothing do to with the rest of this PR, so if could be split off, right?)

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 6]
```diff
@@ -744,7 +865,6 @@ lemma map_preNormEDS' (n : ℕ) : f (preNormEDS' b c d n) = preNormEDS' (f b) (f
 @[simp]
 lemma map_preNormEDS (n : ℤ) : f (preNormEDS b c d n) = preNormEDS (f b) (f c) (f d) n := by
   simp [preNormEDS]
-
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:747]: This is not good.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 2 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:138]: I've reverted the `odd`/`neg` renaming. I've kept some of the proof simplifications which should be easy to read. Some of the old proofs broke because I've changed the imports...

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 4 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:402]: Yeah, I agree. I blame Codex.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 6 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:747]: Not sure what happened here.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 7]
```diff
@@ -116,7 +122,6 @@ lemma atom_same (a : ℤ) : atom W a a = W a * W 0 := by
   rw [atom, ← two_mul, Int.mul_tdiv_cancel_left _ two_ne_zero, sub_self, Int.zero_tdiv]
 
 variable {W} in
-@[simp]
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:119]: Why?

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 5 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: It does. I hope you don't mind me changing it here.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 8]
```diff
@@ -335,6 +449,9 @@ protected theorem id : IsEllipticDvdSequence (id : ℤ → ℤ) :=
 protected lemma smul (h : IsEllipticDvdSequence W) (x : R) : IsEllipticDvdSequence <| x • W :=
   ⟨h.left.smul x, h.right.smul x⟩
 
+protected lemma comp (h : IsEllipticDvdSequence W) (f : F) : IsEllipticDvdSequence <| f ∘ W :=
+  ⟨h.left.comp f, h.right.comp <| by apply map_dvd⟩
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Can you avoid the tactic mode `by apply` here?

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 7 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:119]: Oops

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 9]
```diff
@@ -317,7 +422,16 @@ protected lemma id : IsEllipticSequence (id : ℤ → ℤ) :=
   IsEllipticNet.id.isEllipticSequence
 
 protected lemma smul (h : IsEllipticSequence W) (x : R) : IsEllipticSequence <| x • W :=
-  fun p q r ↦ by linear_combination (norm := (simp [IsEllipticNet.rel]; ring1)) x ^ 4 * h p q r
+  fun p q r ↦ by convert congrArg (x ^ 4 * ·) <| h p q r using 1 <;> simp [IsEllipticNet.rel]; ring1
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Does grind help here? (maybe `grind [IsEllipticNet.rel]` or more)

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 8 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: I can't! I have no idea why...

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 9 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: That was the first thing I tried, and no it doesn't work.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 10]
```diff
@@ -305,7 +401,17 @@ protected lemma id : IsEllipticNet (id : ℤ → ℤ) :=
   fun _ _ _ _ ↦ by simp_rw [rel, id_eq]; ring1
 
 protected lemma smul (h : IsEllipticNet W) (x : R) : IsEllipticNet <| x • W := fun p q r s ↦ by
-  linear_combination (norm := (simp_rw [rel, Pi.smul_apply, smul_eq_mul]; ring1)) x ^ 4 * h p q r s
+  convert congrArg (x ^ 4 * ·) <| h p q r s <;> simp [rel]; ring1
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]:
```suggestion
  specialize h p q r s
  grind [rel, Pi.smul_apply, smul_eq_mul]
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 11]
```diff
@@ -305,7 +401,17 @@ protected lemma id : IsEllipticNet (id : ℤ → ℤ) :=
...
+
+protected lemma comp (h : IsEllipticNet W) (f : F) : IsEllipticNet <| f ∘ W :=
+  fun _ _ _ _ ↦ by rw [← map_rel, h, map_zero]
+
+/-- If a sequence satisfies the even and odd elliptic relations, then it is an elliptic net. -/
+theorem of_even_odd (neg : W.Odd) (one : W 1 ∈ R⁰) (two : W 2 ∈ R⁰)
+    (even : ∀ m : ℤ, rel W (m + 1) (m - 1) 1 0 = 0) (odd : ∀ m : ℤ, rel W (m + 1) m 1 0 = 0) :
+    IsEllipticNet W := fun _ _ _ _ ↦ by
+  simp_rw [rel_eq] at *
+  exact atomRel_of_even_odd neg one two (by grind) (by grind) <| by simp
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]:
```suggestion
  apply atomRel_of_even_odd <;> grind
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 9 above)
Comment (tb65536) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]:
```suggestion
  intro p q r
  specialize h p q r
  grind [IsEllipticNet.rel, Pi.smul_apply, smul_eq_mul]
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 12]
```diff
@@ -335,6 +450,9 @@ protected theorem id : IsEllipticDvdSequence (id : ℤ → ℤ) :=
 protected lemma smul (h : IsEllipticDvdSequence W) (x : R) : IsEllipticDvdSequence <| x • W :=
   ⟨h.left.smul x, h.right.smul x⟩
 
+protected lemma comp (h : IsEllipticDvdSequence W) (f : F) : IsEllipticDvdSequence <| f ∘ W :=
+  ⟨h.left.comp f, h.right.comp <| by apply map_dvd⟩
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]:
```suggestion
  ⟨h.left.comp f, h.right.comp fun _ _ ↦ map_dvd f⟩
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 13]
```diff
@@ -768,3 +898,11 @@ lemma map_complEDS (k n : ℤ) : f (complEDS b c d k n) = complEDS (f b) (f c) (
...
 
 end Map
+
+open Polynomial in
+/-- The canonical normalised EDS is an elliptic sequence. -/
+theorem isEllipticSequence_normEDS : IsEllipticSequence <| normEDS b c d := by
+  convert IsEllipticSequence.of_even_odd (normEDS_neg X (C c) (C d)) (by simp)
+    (by simpa using isRegular_X.mem_nonZeroDivisors) (normEDS_rel_even _ _ _)
+    (normEDS_rel_odd _ _ _) |>.comp <| evalRingHom b
+  ext; simp_rw [Function.comp_apply, map_normEDS, coe_evalRingHom, eval_X, eval_C]
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:908]: Not the biggest fan of `convert` since it can hide defeq problems.
```suggestion
  have key : normEDS b c d = evalRingHom b ∘ normEDS X (C c) (C d) := by
    ext; simp_rw [Function.comp_apply, map_normEDS, coe_evalRingHom, eval_X, eval_C]
  rw [key]
  exact IsEllipticSequence.of_even_odd (normEDS_neg X (C c) (C d)) (by simp)
    (by simpa using isRegular_X.mem_nonZeroDivisors) (normEDS_rel_even _ _ _)
    (normEDS_rel_odd _ _ _) |>.comp <| evalRingHom b
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 14]
```diff
@@ -768,3 +898,11 @@ lemma map_complEDS (k n : ℤ) : f (complEDS b c d k n) = complEDS (f b) (f c) (
   simp [complEDS]
 
 end Map
+
+open Polynomial in
+/-- The canonical normalised EDS is an elliptic sequence. -/
+theorem isEllipticSequence_normEDS : IsEllipticSequence <| normEDS b c d := by
+  convert IsEllipticSequence.of_even_odd (normEDS_neg X (C c) (C d)) (by simp)
+    (by simpa using isRegular_X.mem_nonZeroDivisors) (normEDS_rel_even _ _ _)
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Can you add a lemma `X_mem_nonZeroDivisors`?

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 15]
```diff
@@ -162,32 +168,42 @@ def atomRel (a b c d : ℤ) : R :=
...
+lemma neg_atomRel₁₂ (odd : W.Odd) (a b c d : ℤ) : -atomRel W a b c d = atomRel W b a c d := by
+  grind only [atomRel, neg_atom]
+
+variable {W} in
+lemma neg_atomRel₂₃ (odd : W.Odd) (a b c d : ℤ) : -atomRel W a b c d = atomRel W a c b d := by
+  grind only [atomRel, neg_atom]
+
+variable {W} in
+lemma neg_atomRel₃₄ (odd : W.Odd) (a b c d : ℤ) : -atomRel W a b c d = atomRel W a b d c := by
+  grind only [atomRel, neg_atom]
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:206]: Can you split off this basic API and proof shortening into a separate PR? I'll need some time to digest the big proof, but this basic stuff can be merged quickly.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 13 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:908]: I'm not convinced of this: you're just changing the `convert` to an `exact`, which also potentially hides defeq problems, and now it's longer with a `have` that I do not like :)

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 15 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:206]: #42477

**Comment by tb65536** [comment]
Can you merge master?

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:355]: Thanks! Really impressive golf.

**Review by alreadydone — APPROVED** [review]

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 16]
```diff
@@ -259,6 +268,71 @@ lemma atomRel_odd (m : ℤ) : atomRel W (2 * m + 2) (2 * m) 2 0 =
...
+
+variable {W} in
+lemma atomRel_perm (odd : W.Odd) (σ : Equiv.Perm <| Fin 4) (t : Fin 4 → ℤ) : σ.sign •
+    atomRel W (t <| σ 0) (t <| σ 1) (t <| σ 2) (t <| σ 3) = atomRel W (t 0) (t 1) (t 2) (t 3) := by
+  induction Equiv.Perm.mclosure_swap_castSucc_succ 3 ▸ Submonoid.mem_top σ using
+    Submonoid.closure_induction generalizing t with
+  | mem _ h => rcases h with ⟨_ | _ | _ | -, rfl⟩ <;>
+    simp [Equiv.swap_apply_def] <;> grind only [neg_atomRel₁₂, neg_atomRel₂₃, neg_atomRel₃₄]
+  | one => simp
+  | mul σ τ _ _ hσ hτ => simpa [mul_smul] using congrArg _ (hτ ((t ∘ σ) ·)) |>.trans <| hσ t
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]:
```suggestion
  | mul σ τ _ _ hσ hτ => simpa [mul_smul] using congrArg _ (hτ (t ∘ σ)) |>.trans <| hσ t
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 17]
```diff
@@ -259,6 +268,71 @@ lemma atomRel_odd (m : ℤ) : atomRel W (2 * m + 2) (2 * m) 2 0 =
...
+
+variable {W} in
+lemma atomRel_of_even_odd (neg : W.Odd) (one : W 1 ∈ R⁰) (two : W 2 ∈ R⁰)
+    (even : ∀ m : ℤ, atomRel W (2 * m + 2) (2 * m - 2) 2 0 = 0)
+    (odd : ∀ m : ℤ, atomRel W (2 * m + 2) (2 * m) 2 0 = 0) {a b c d : ℤ}
+    (parity : [a, b, c, d].Pairwise (· % 2 = · % 2)) : atomRel W a b c d = 0 := by
+  wlog _ : 0 ≤ a ∧ 0 ≤ b ∧ 0 ≤ c ∧ 0 ≤ d generalizing a b c d with h
+  · exact atomRel_abs neg .. ▸
+      h (by simp [-Nat.cast_natAbs, Int.abs_eq_natAbs] at parity ⊢; omega) <| by simp
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]:
```suggestion
  · exact atomRel_abs neg .. ▸ h (parity.map _ (by grind)) <| by simp
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 18]
```diff
@@ -259,6 +268,71 @@ lemma atomRel_odd (m : ℤ) : atomRel W (2 * m + 2) (2 * m) 2 0 =
...
+  wlog _ : d ≤ c ∧ c ≤ b ∧ b ≤ a generalizing a b c d with h
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:361]: Why not do `a ≤ b ∧ b ≤ c ∧ c ≤ d` to avoid the `Fin.revPerm`?

Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:361]: I think for historical (i.e. paper) reasons we want to induct on `a`, which would be the biggest term. If you can make this work cleaner by inducting on `d`, maybe we can switch to that.

Comment (tb65536) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:361]: Seems like this might require tweaking the `atom_mul_atomRel` lemmas. Do you or @alreadydone have a sense of what the tweaked lemmas should say?

Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:361]: That's @alreadydone's magic so I'd defer this to him.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 19]
```diff
@@ -259,6 +268,70 @@ lemma atomRel_odd (m : ℤ) : atomRel W (2 * m + 2) (2 * m) 2 0 =
...
+
+lemma atom_mul_atomRel_snd (m n r c d : ℤ) : atom W c d * atomRel W m n r d =
+    atom W r d * atomRel W m n c d - atom W n d * atomRel W m r c d +
+      atom W m d * atomRel W n r c d := by
+  unfold atomRel
+  ring1
+
+variable {W} in
+lemma atomRel_perm (odd : W.Odd) (σ : Equiv.Perm <| Fin 4) (t : Fin 4 → ℤ) : σ.sign •
+    atomRel W (t <| σ 0) (t <| σ 1) (t <| σ 2) (t <| σ 3) = atomRel W (t 0) (t 1) (t 2) (t 3) := by
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]:
```suggestion
lemma atomRel_perm (odd : W.Odd) (σ : Equiv.Perm <| Fin 4) (t : Fin 4 → ℤ) :
    atomRel W (t <| σ 0) (t <| σ 1) (t <| σ 2) (t <| σ 3) =
      σ.sign • atomRel W (t 0) (t 1) (t 2) (t 3) := by
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 18 above)
Comment (YaelDillies) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:361]: I don't see the issue with this. It makes a lot of sense for the major variable to be the first one, and the use of `Fin.rev` is merely due to mathlib not having a way to sort tuples in decreasing order

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 20]
```diff
@@ -807,3 +900,14 @@ lemma map_complEDS (k n : ℤ) : f (complEDS b c d k n) = complEDS (f b) (f c) (
   simp [complEDS]
 
 end Map
+
+open Polynomial in
+/-- The canonical normalised EDS is an elliptic net. -/
+theorem IsEllipticNet.normEDS : IsEllipticNet <| normEDS b c d := by
+  convert of_even_odd (normEDS_neg X (C c) (C d)) (by simp) (by simp [X_mem_nonZeroDivisors])
+    (normEDS_rel_even _ _ _) (normEDS_rel_odd _ _ _) |>.comp <| evalRingHom b
+  ext; simp_rw [Function.comp_apply, map_normEDS, coe_evalRingHom, eval_X, eval_C]
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: I think it's probably better to make the move to polynomials explicit for readability maintainability rather than being implicit from the `normEDS_neg` argument.
```suggestion
  protected theorem IsEllipticNet.normEDS : IsEllipticNet <| normEDS b c d := by
  suffices IsEllipticNet (normEDS (Polynomial.X : R[X]) (C c) (C d)) by
    convert this.comp (evalRingHom b)
    simp_rw [Function.comp_def, map_normEDS, coe_evalRingHom, eval_X, eval_C]
  exact of_even_odd (normEDS_neg X (C c) (C d)) (by simp) (by simp [X_mem_nonZeroDivisors])
    (normEDS_rel_even _ _ _) (normEDS_rel_odd _ _ _)
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 21]
```diff
@@ -259,6 +270,116 @@ lemma atomRel_odd (m : ℤ) : atomRel W (2 * m + 2) (2 * m) 2 0 =
...
+      atomRel W (t 0) (t 1) (t 2) (t 3) := by
+  induction Equiv.Perm.mclosure_swap_castSucc_succ 3 ▸ Submonoid.mem_top σ using
+    Submonoid.closure_induction generalizing t with
+  | mem _ h => rcases h with ⟨_ | _ | _ | -, rfl⟩ <;>
+    simp [Equiv.swap_apply_def] <;> grind only [neg_atomRel₁₂, neg_atomRel₂₃, neg_atomRel₃₄]
+  | one => simp
+  | mul σ τ _ _ hσ hτ => simpa [mul_smul] using congrArg _ (hτ <| t ∘ σ) |>.trans <| hσ t
+
+variable {W} in
+lemma foo (v : Fin 4 → ℤ) (neg : W.Odd) (hv : ¬ Function.Injective v) (h0 : W 0 = 0) :
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:297]: This should have a better name.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 22]
```diff
@@ -259,6 +270,116 @@ lemma atomRel_odd (m : ℤ) : atomRel W (2 * m + 2) (2 * m) 2 0 =
...
+    atomRel W (v 0) (v 1) (v 2) (v 3) = 0 := by
+  obtain ⟨i, j, h⟩ := Function.not_injective_iff.mp hv
+  fin_cases i <;> fin_cases j <;> simp_all
+
+theorem test {n : ℕ} {v : Fin n → ℤ} {x y : ℤ} :
+    Antitone (Matrix.vecCons x (Matrix.vecCons y v)) ↔ y ≤ x ∧ Antitone (Matrix.vecCons y v) := by
+  simp only [Nat.succ_eq_add_one, antitone_vecCons, Matrix.cons_val_zero]
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:304]: This should get removed.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 18 above)
Comment (YaelDillies) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:349]: @Multramate, could you please use `Tuple.sortDesc` from #43741 ?

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 22 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Agreed

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 21 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:295]: This is nice, but if we were to stick with a b c d, then this is slightly out of place

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 23]
```diff
@@ -259,6 +270,116 @@ lemma atomRel_odd (m : ℤ) : atomRel W (2 * m + 2) (2 * m) 2 0 =
...
+variable {W} in
+lemma atomRel_perm (odd : W.Odd) (σ : Equiv.Perm <| Fin 4) (t : Fin 4 → ℤ) :
+    σ.sign • atomRel W (t <| σ 0) (t <| σ 1) (t <| σ 2) (t <| σ 3) =
+      atomRel W (t 0) (t 1) (t 2) (t 3) := by
+  induction Equiv.Perm.mclosure_swap_castSucc_succ 3 ▸ Submonoid.mem_top σ using
+    Submonoid.closure_induction generalizing t with
+  | mem _ h => rcases h with ⟨_ | _ | _ | -, rfl⟩ <;>
+    simp [Equiv.swap_apply_def] <;> grind only [neg_atomRel₁₂, neg_atomRel₂₃, neg_atomRel₃₄]
+  | one => simp
+  | mul σ τ _ _ hσ hτ => simpa [mul_smul] using congrArg _ (hτ <| t ∘ σ) |>.trans <| hσ t
```
Comment (Multramate) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: This seems to work:
```suggestion
lemma atomRel_perm (odd : W.Odd) (σ : Perm <| Fin 4) (a b c d : ℤ) :
    σ.sign • atomRel W (![a, b, c, d] <| σ 0) (![a, b, c, d] <| σ 1) (![a, b, c, d] <| σ 2) (![a, b, c, d] <| σ 3) =
      atomRel W a b c d := by
  induction σ using Perm.swap_induction_on' with
  | one => simp
  | mul_swap σ x y _ _ => fin_cases x <;> fin_cases y <;> simp [swap_apply_def] <;>
      grind only [neg_atomRel₁₂, neg_atomRel₂₃, neg_atomRel₃₄, smul_neg]
```
which also removes the `erw` below

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 24]
```diff
@@ -259,6 +270,116 @@ lemma atomRel_odd (m : ℤ) : atomRel W (2 * m + 2) (2 * m) 2 0 =
...
+    · wlog _ : v 0 = v 1 + 2
+      · have := @atomRel_avg_sub R _ W (v 0) (v 1) (v 2) (v 3) <| by grind
+        grind [=_ atomRel_neg₄]
+      have := atomRel_avg_sub W (by simp) |>.trans (even (v 0 / 2))
+      grind [odd (v 1 / 2), atomRel_neg₄ W (v 0) (v 1) (v 2) (v 3)]
+    · have ha : atom W (v 0 % 2 + 2) (v 0 % 2) ∈ R⁰ := by grind only [atom, mul_mem]
+      apply ha.left _
+      have := @atom_mul_atomRel R _ W (v 0) (v 1) (v 2) (max (v 3) <| v 0 % 2 + 2)
+        (min (v 3) <| v 0 % 2 + 2) (v 0 % 2) 0 0 0 (-1) 0 1 <| by norm_num1
+      grind [atom_same, atomRel_same₃₄, atomRel.eq_def W (v 0) (v 1) (v 2)]
```
Comment (Multramate) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: I'm now no longer convinced this is better than the other on below. See Zulip.
